US08859544B2
6-[(1-Methoxy-2-methylindolizin-3-yl)carbonyl]-2-methylquinazolin-4(3H)-one
0.100 g (0.29 mmol) of 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-2-methyl-4H-3,1-benzoxazin-4-one in 2 ml of a 20% aqueous ammonia solution are heated for 2 hours at 50° C. and then hydrolysed with 3 ml of 10% aqueous sodium hydroxide solution and brought to 50° C. for 2 hours. The reaction medium is acidified with a 1N aqueous solution of hydrochloric acid, to pH=9. The precipitate obtained is filtered off, rinsed with water and then dried under reduced pressure at 40° C. overnight. The solid obtained is purified by silica gel column chromatography, elution being carried out with a dichloromethane/methanol (90/10) mixture. 67 mg of a yellow solid are obtained.

reactant | 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-2-methyl-4H-3,1-benzoxazin-4-one | 0.29 mmol, 0.100 g | COC=1C(=C(N2C=CC=CC12)C(=O)C=1C=CC2=C(C(OC(=N2)C)=O)C1)C | C20H16N2O4
reactant | ammonia | N | H3N
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 6-[(1-Methoxy-2-methylindolizin-3-yl)carbonyl]-2-methylquinazolin-4(3H)-one | 67 mg | COC=1C(=C(N2C=CC=CC12)C(=O)C=1C=C2C(NC(=NC2=CC1)C)=O)C | C20H17N3O3
